US08067426B2
Intermediate 18: N2-Butyl-9-(4-chlorobutyl)-8-(methyloxy)-9H-purine-2,6-diamine
N2-Butyl-8-(methyloxy)-9H-purine-2,6-diamine trifluoroacetate (5 g, 14.27 mmol) and potassium carbonate (4.93 g, 35.7 mmol) were suspended in DMF (40 ml) and heated to 50° C. under nitrogen for 30 mins. The mixture was cooled to room temperature, 1-bromo-4-chlorobutane (1.645 ml, 14.27 mmol) was added and stirring was continued at room temperature for 20 hours. The solvent was concentrated under vacuum and the residue was partitioned between DCM (100 ml) and water (100 ml). The layers were separated using a hydrophobic frit and the aqueous phase was re-extracted with DCM (100 ml). The combined organics extracts were concentrated in vacuo and the residue purified by chromatography using a FlashMaster apparatus (100 g silica cartridge) and using a DCM:methanol 0-25% gradient over 40 mins. The desired fractions were combined and concentrated under vacuum to give the impure title compound as a yellow oil (5.1 g).

reactant | N2-Butyl-8-(methyloxy)-9H-purine-2,6-diamine trifluoroacetate | 14.27 mmol, 5 g | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 35.7 mmol, 4.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 14.27 mmol, 1.645 ml | BrCCCCCl | C4H8BrCl
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | N2-Butyl-9-(4-chlorobutyl)-8-(methyloxy)-9H-purine-2,6-diamine | 5.1 g | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCCCl)OC)N | C14H23ClN6O
